US05158964
(B) N-methyl-N-(5-nitrobenzoxazol-2-ylmethyl)-4-nitrophenethylamine
2-Chloromethyl-5-nitrobenzoxazole (2.85 g, 13.4 mmole), N-methyl-4-nitrophenethylamine (J. O. C., [1956], 21, 45) (2.2 g, 12.2 mmole), potassium carbonate (1.85 g, 13.4 mmole) and sodium iodide (2.0 g, 13.4 mmole) were heated under reflux in acetonitrile (50 ml) for 3 days. The solvent was then evaporated, the residue diluted with water, and extracted three times with methylene chloride. The combined organic extracts were washed with water, dried (MgSO4), filtered and evaporated to dryness. The resultant oil was diluted with ether and the supernatant decanted and evaporated to dryness to give an orange solid, which was recrystallised from isopropanol to give the title compound, yield 0.80 g.

reactant | 2-Chloromethyl-5-nitrobenzoxazole | 13.4 mmole, 2.85 g | ClCC=1OC2=C(N1)C=C(C=C2)[N+](=O)[O-] | C8H5ClN2O3
reactant | N-methyl-4-nitrophenethylamine | CNCCC1=CC=C(C=C1)[N+](=O)[O-] | C9H12N2O2
reactant | potassium carbonate | 13.4 mmole, 1.85 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 13.4 mmole, 2.0 g | [I-].[Na+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | N-methyl-N-(5-nitrobenzoxazol-2-ylmethyl)-4-nitrophenethylamine | CN(CC=1OC2=C(N1)C=C(C=C2)[N+](=O)[O-])CCC2=CC=C(C=C2)[N+](=O)[O-] | C17H16N4O5
